US07786155B2
N-(4-Acetyl-3-fluoro-phenyl)-acetamide (10.2 g, 51.2 mmol) is dissolved in 50 mL chloroform. At room temperature bromine (1.98 mL, 38.4 mmol) is added drop wise. The reaction mixture is stirred at room temperature for 1.5 hours. Subsequently the precipitated product is filtered off, washed first with chloroform and then with ethyl acetate to yield N-[4-(2-bromo-acetyl)-3-fluoro-phenyl]-acetamide (8.7 g, 43%); LCIMS at 254 nm; [M+H] 275; Rt 2.918 min)

reactant | N-(4-Acetyl-3-fluoro-phenyl)-acetamide | 51.2 mmol, 10.2 g | C(C)(=O)C1=C(C=C(C=C1)NC(C)=O)F | C10H10FNO2
reactant | bromine | 38.4 mmol, 1.98 mL | BrBr | Br2
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | N-[4-(2-bromo-acetyl)-3-fluoro-phenyl]-acetamide | 8.7 g, 43% | BrCC(=O)C1=C(C=C(C=C1)NC(C)=O)F | C10H9BrFNO2
